US06946467B2
Ethyl 4-pyridylacetate (20 g, 121 mmol) was added to a suspension of LiAlH4 (9.2 g, 242 mmol) in diethyl ether (600 mL). Diatomaceous earth (about 50 mL) was added to aid stirring. The mixture stirred overnight. The mixture was cooled to 0° C. and aqueous NaOH (15%) was added until degassing ceased. The mixture was allowed to stir for 1 h. The solids were removed by filtration and the filtrate was concentrated under vacuum. The crude product was purified by chromatography (SiO2, 40:1-20:1 CH2Cl2:methanol) to provide 4-(2-hydroxyethyl)pyridine (8.1 g, 54%) as an amber liquid.

reactant | Ethyl 4-pyridylacetate | 121 mmol, 20 g | N1=CC=C(C=C1)CC(=O)OCC | C9H11NO2
reactant | LiAlH4 | 242 mmol, 9.2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | [OH-].[Na+]
solvent | diethyl ether | 600 mL | C(C)OCC | C4H10O
product | 4-(2-hydroxyethyl)pyridine | 8.1 g, 54% | OCCC1=CC=NC=C1 | C7H9NO
